US08486970B2
To a mixture of 1266 mg of {2-[(tetrahydro-2H-pyrane-2-yloxy)methyl]pyridin-4-yl}methyl benzoate and 25 ml of methanol was added 1166 mg of pyridinium p-toluenesulfonate, followed by stirring for 2 hours. A saturated aqueous sodium hydrogen carbonate solution and chloroform were added thereto for extraction, and the organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 941 mg of [2-(hydroxymethyl)pyridin-4-yl]methyl benzoate as an amorphous substance.

reactant | {2-[(tetrahydro-2H-pyrane-2-yloxy)methyl]pyridin-4-yl}methyl benzoate | 1266 mg | C(C1=CC=CC=C1)(=O)OCC1=CC(=NC=C1)COC1OCCCC1 | C19H21NO4
reactant | methanol | 25 ml | CO | CH4O
reactant | pyridinium p-toluenesulfonate | 1166 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | [2-(hydroxymethyl)pyridin-4-yl]methyl benzoate | 941 mg | C(C1=CC=CC=C1)(=O)OCC1=CC(=NC=C1)CO | C14H13NO3
